US07943619B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-methoxy-ethyl)-amide
To a solution of 3-chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine (200 mg, 0.66 mmol) in THF (5 mL) was added 2-methoxyethylamine (0.29 mL, 3.30 mmol), sodium carbonate (70 mg, 0.66 mmol), 1,1′-bis(diphenylphosphino)ferrocene (37 mg, 0.06 mmol) and palladium(II) acetate (15 mg, 0.06 mmol). The resulting mixture was stirred at 50° C. for 18 h under a carbon monoxide atmosphere then filtered through Celite®. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound (61 mg, 25%) as a light yellow oil. MS: m/e=369.0 [M+H]+.

reactant | 3-chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 0.66 mmol, 200 mg | ClC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C15H12ClN3O2
reactant | 2-methoxyethylamine | 3.30 mmol, 0.29 mL | COCCN | C3H9NO
reactant | sodium carbonate | 0.66 mmol, 70 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.06 mmol, 37 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 0.06 mmol, 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-methoxy-ethyl)-amide | 61 mg, 25% | COCCNC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C19H20N4O4
